US06890923B2
a) 5-(Chloroacetyl)-3-methyl-1-(2-methylpropyl)-6-[[2-(trifluoromethyl)phenyl]methyl]-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione
1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxo-6-[[2-(trifluoromethyl)phenyl]methyl]-thieno[2,3-d]pyrimidine-5-carboxylic acid, (prepared by the method of Example 8a) (3.665 g) was suspended in dichloromethane (70 ml) containing dimethyl formamide (1 drop) and treated with oxalyl chloride (1.47 ml). 1 hr after gas evolution ceased the reaction was concentrated in vacuo and stored under high vacuum for 1 h. The residue was redissolved in dichloromethane (50 ml) and treated with triethylamine (1 ml). To this solution was added trimethylsilyldiazomethane (7 mls of 2M solution in tetrahydrofuran) and the reaction was stirred at room temperature under an atmosphere of nitrogen for 4 hrs before HCl (8 ml, 4M in dioxane) was added. The reaction was stirred for 18 hrs before being concentrated in vacuo and the residue was purified by chromatography eluting with 2:1 isohexane:diethyl ether. The product was recrystallised from ethyl acetate and isohexane to yield the subtitle compound as white needles(4.616 g)

reactant | 1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-2,4-dioxo-6-[[2-(trifluoromethyl)phenyl]methyl]-thieno[2,3-d]pyrimidine-5-carboxylic acid | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=C(C=CC=C2)C(F)(F)F)C(=O)O)CC(C)C)=O | C20H19F3N2O4S
reactant | oxalyl chloride | 1.47 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
catalyst | dimethyl formamide | 1 drop | CN(C=O)C | C3H7NO
product | 5-(Chloroacetyl)-3-methyl-1-(2-methylpropyl)-6-[[2-(trifluoromethyl)phenyl]methyl]-thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 4.616 g | ClCC(=O)C1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=C(C=CC=C2)C(F)(F)F | C21H20ClF3N2O3S
